US04954498
8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinolin-5-one.
5 g. (20.4 mmole) 4,4-dimethyl-6-nitro-7-amino-1,2,3,4-tetrahydroisoquinolin-1-one were hydrogenated in 120 ml. methanol in the presence of 0.5 g. 10% palladium on charcoal. After separating off the catalyst, the evaporation residue (4.3 g.) was acylated in 150 ml. methylene chloride and 8.4 ml. triethylamine with 5.4 g. isonicotinic acid chloride hydrochloride. After 1 hour, the evaporation residue is worked up with water and filtered off with suction. The moist residue was subsequently boiled in 100 ml. ethanol and 20 ml. concentrated hydrochloric acid for 24 hours, evaporated, mixed with water and neutralised. After column chromatography (silica gel, elution agent: methylene chloride/methanol saturated with ammonia; 15:1 v/v) and boiling up, there were obtained 2.3 g. (41% of theory) of the title compound; m.p. above 300° C.

reactant | 4,4-dimethyl-6-nitro-7-amino-1,2,3,4-tetrahydroisoquinolin-1-one | 20.4 mmole | CC1(CNC(C2=CC(=C(C=C12)[N+](=O)[O-])N)=O)C | C11H13N3O3
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinolin-5-one | CC1(CNC(C=2C=C3C(=CC12)NC(=N3)C3=CC=NC=C3)=O)C | C17H16N4O
